US08247403B2
(2) N-isopropyl-N-methyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride
A solution of tert-butyl 8-[isopropyl(methyl)amino]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate (270 mg, 0.843 mmol) in 4N hydrogen chloride-ethyl acetate (6 ml) was stirred for 1 hr at room temperature, and the solvent was evaporated under reduced pressure. The residue was recrystallized from a mixed solvent of methanol and ether to give the desired product (123 mg, 49.8%) as a solid.

reactant | tert-butyl 8-[isopropyl(methyl)amino]-2,3-dihydro-1,4-benzoxazepine-4(5H)-carboxylate | 0.843 mmol, 270 mg | C(C)(C)N(C1=CC2=C(CN(CCO2)C(=O)OC(C)(C)C)C=C1)C | C18H28N2O3
reactant | hydrogen chloride-ethyl acetate | 4N, 6 ml | C(C)(=O)OCC.Cl
product | N-isopropyl-N-methyl-2,3,4,5-tetrahydro-1,4-benzoxazepine-8-amine dihydrochloride | 123 mg, 49.8% | Cl.Cl.C(C)(C)N(C1=CC2=C(CNCCO2)C=C1)C | InChI=1S/C13H20N2O.2ClH/c1-10(2)15(3)12-5-4-11-9-14-6-7-16-13(11)8-12;;/h4-5,8,10,14H,6-7,9H2,1-3H3;2*1H
